US04264498
A mixture of N-tert-butoxycarbonyl-2-(4-hydroxyphenyl)glycine phenacyl ester prepared as above (3.56 g.), phenacyl bromide (1.84 g.) and potassium carbonate (1.28 g.) in an anhydrous acetone (71 ml.) was heated to reflux for 7 hours. The insoluble substances were filtered off and the filtrate was evaporated to dryness under reduced pressure. The residual oil was dissolved in chloroform, washed with water, dried over magnesium sulfate, and evaporated to dryness under reduced pressure. The residue was triturated with diisopropyl ether to give crystalline N-tert-butoxycarbonyl-2-(4-phenacyloxyphenyl)glycine phenacyl ester (4.12 g.), which was recrystallized from ethanol to give the pure material, mp 125° to 126.5° C.

reactant | N-tert-butoxycarbonyl-2-(4-hydroxyphenyl)glycine phenacyl ester | C(C(=O)C1=CC=CC=C1)OC(C(NC(=O)OC(C)(C)C)C1=CC=C(C=C1)O)=O | C21H23NO6
reactant | phenacyl bromide | 1.84 g | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
reactant | potassium carbonate | 1.28 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 71 ml | CC(=O)C | C3H6O
product | N-tert-butoxycarbonyl-2-(4-phenacyloxyphenyl)glycine phenacyl ester | 4.12 g | C(C(=O)C1=CC=CC=C1)OC(C(NC(=O)OC(C)(C)C)C1=CC=C(C=C1)OCC(=O)C1=CC=CC=C1)=O | C29H29NO7
